US08283353B2
4′-({4-[trans-4-(1,3-oxazol-5-yl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylic acid (0.94 g), copper(II) oxide (0.005 g) and quinoline (5 mL) was stirred at 180° C. for 16 hr. 1 N Hydrochloric acid and ethyl acetate were added to the reaction mixture, and the insoluble material was filtered off through celite. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (0.65 g, 75%).

reactant | 5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylic acid | 0.94 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)C2=C(N=CO2)C(=O)O)=O | C32H30N6O4
reactant | quinoline | 5 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | Hydrochloric acid | 1 N | Cl | ClH
catalyst | copper(II) oxide | 0.005 g | [Cu]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-({4-[trans-4-(1,3-oxazol-5-yl)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.65 g, 75% | O1C=NC=C1[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H30N6O2
